US08309598B2
Preparation of 5-(4H-benzo[d][1,3]dithiin-2-yl)-2,3-dimethoxyphenol
Hydrogen chloride gas was bubbled for three minutes at 22° C. through a solution of 3-hydroxy-4,5-dimethoxybenzaldehyde (0.55 g, 3.0 mmol) and 2-(mercaptomethyl)benzenethiol (0.52 g, 3.3 mmol) in dichloromethane (15 ml). After an additional 15 min., the reaction mixture was poured into saturated NaHCO3 (50 ml) and extracted with dichloromethane (2×75 ml). The combined organic layer was washed with brine (30 ml), dried (Na2SO4), filtered and concentrated providing a crude solid. This solid was triturated with hexane and then purified by flash chromatography using a gradient of hexanes (100%) up to hexanes (70%:30%). Concentration of the product containing fractions provided the above subtitle compound (0.76 g, 78%) as a white solid. 1H NMR (300 MHz, CDCl3, ppm) δ 3.84 (s, 3H), 3.90 (s, 3H), 3.94 (d, J=15 Hz, 1H), 4.00 (d, J=15 Hz, 1H), 5.42 (s, 1H), 5.89 (br s, 1H), 6.63 (d, J=2 Hz, 1H), 6.78 (d, J=2 Hz, 1H), 7.15-7.36 (m, 4H); 13C NMR (75 MHz, CDCl3, ppm) δ 34.3, 51.5, 56.0, 61.0, 104.1, 108.2, 126.4, 127.7, 128.5, 129.6, 135.2, 135.3, 135.5, 135.7, 149.4, 152.5; MS calculated for C16H16O3S2-H 319 observed 319.

reactant | Hydrogen chloride | Cl | ClH
reactant | 3-hydroxy-4,5-dimethoxybenzaldehyde | 3.0 mmol, 0.55 g | OC=1C=C(C=O)C=C(C1OC)OC | C9H10O4
reactant | 2-(mercaptomethyl)benzenethiol | 3.3 mmol, 0.52 g | SCC1=C(C=CC=C1)S | C7H8S2
reactant | NaHCO3 | 50 ml | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 5-(4H-benzo[d][1,3]dithiin-2-yl)-2,3-dimethoxyphenol | 0.76 g, 78% | S1C(SCC2=C1C=CC=C2)C=2C=C(C(=C(C2)O)OC)OC | C16H16O3S2
